US03972927
In the manner of Example 1, n-butylamine was reacted with 3,5-di-t-butyl-4-hydroxybenzoyl chloride to produce N-n-butyl-3,5-di-t-butyl-4-hydroxybenzamide; melting point 181°-183°C. When tested by the procedure in Example 2, the sample containing this compound lasted 950 hours, about 3.2 times as long as the control.

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
product | N-n-butyl-3,5-di-t-butyl-4-hydroxybenzamide | C(CCC)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C19H31NO2
